Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
brimonidine
 
Attending: ___.
 
Chief Complaint:
Fever and Cough
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old woman w/ ___ Hodgkin's 
Lymphoma (diagnosed ___ now on ABVD chemotherapy who 
presents from urgent clinic with fever and dry cough of one day 
duration. She states the cough just started and that she 
otherwise feels well. No nausea, no vomiting, no diarrhea, no 
abdominal pain, no dysuria or increased urinary frequency. She 
states that the wound she had changed by ___ 3x/wk is improving 
and "closing up," and per wound clinic note on ___: "right 
upper chest wound is decreasing in size and filling in with 
fibrinous granulation tissue...There is no erythema, exudate, or 
pain at the site." Of note, she had recently finished nafcillin 
___ for MSSA bacteremia related to an infected Port-A-Cath 
being used for chemotherapy, which was removed on ___.  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
___- Initially presented to PCP ___ 5x5 cm non-mobile firm 
mass above R breast  
___- CXR shows focal soft tissue prominence overlying 
anterior chest wall  
___- MRI shows multiple anterior superior mediastinal masses 
with R paratracheal LAD  
___- CT imaging showed R anterior chest wall mass displacing 
the pec major with multiple small masses in ant mediastinum. No 
pulm parenchymal or abd/pelvic/bony abnormalities seen.  
___- Initial med onc consult  
___- Cervical mediastinopscopy at ___ was done. Pathology 
showed classical hodgkin's disease, nodular sclerosing type. 
Flow was negative.  
___- PET/CT showed bulky mediastinal adenopathy compatible 

with biopsy proven lymphoma. Plan for ABVD x 6.  
___- Incision/drainage of cervical mediastinoscopy wound 
and drainage of abscess - all cx neg, inpt stay with abx 
coverage, port placement ___, all @ BI.  
___- Port-a-Cath placed for chemotherapy  
___- C1D1 ABVD, completed Keflex. No neopogen. Tolerated 
fairly well with no n/v [used only ativan], but BS up [decadron 
12 mg as part of antiemetic]  
___- Seen by thoracic surgery @ BI- mediastinoscopy and 
port sutures removed, not restarted on abx, plan f/u prn  
___- New nodule on R chest, ANC = 100, afebrile. started 
on keflex ___ q6  
___- C1D15 ABVD. Skin improved anc 2200, started neupogen 
3 doses/cycle  
___- C2D1 ABVD 
 
PAST MEDICAL HISTORY:  
1. T2DM  
2. HTN  
3. HLD  
4. Morbid obesity  
5. Primary open angle glaucoma  
6. Rosacea blepharoconjunctivitis  
7. Asthma
8. Allergic Rhinitis 

PAST SUGICAL HISTORY:  
1. Cervical mediastinoscopy and Aspiration of chest wall mass at 
right breast. ___  
2. Incision and drainage of a cervical mediastinoscopy wound, 
evacuation of deep cervical abscess ___  
3. Indwelling port placement ___  

 
Social History:
___
Family History:
Father - colon cancer, wet macular degeneration  
Mother - lymphoma, T2DM 
 
Physical Exam:
ADMISSION:
VS: T98F BP 156/76 HR 110 RR 22 96% RA
GENERAL: Obese female resting NAD, pale, pleasant and
cooperative, speaking in full sentences.  
HEENT: AT/NC, EOMI, PERRLA, anicteric sclera, pink conjunctiva, 
patent nares, MMM, adentulous maxillary area, 
NECK supple neck, no LAD, no JVD,
CARDIAC: no murmurs, gallops, or rubs  
LUNG: soft scattered wheezes, no rales, rhonchi, breathing
comfortably without use of accessory muscles  
ABD: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXT: moving all extremities well, no cyanosis, clubbing or 
edema, no obvious deformities, no splinter hemorrages or oslers 
nodes. 
PULSES: 2+ DP pulses bilaterally  
NEURO: Speech coherent, cognition intact, CN II-XII grossly 
intact, moving all four extremities. Reflexes not assessed.
SKIN: non-erythematous well healing wound from prior port site
without discharge, 1.5x1cm sized, Edges with pink healthy 
tissue,
base with fibrinous tissue. no tenderness

DISCHARGE PHYSICAL EXAM
VS: 99.1F | 112/60 | 104 | 20 | 94%RA  
GENERAL: Comfortable, NAD, sitting up in bed, pleasant and 
interactive
HEENT: EOMI, dry MM
CV: RRR, no murmurs/rubs/gallops
LUNGS: clear to auscultation bilaterally
ABDOMEN: soft, non-distended, non-tender, BS+
NEURO: AA+Ox3, moves extremities and torso at will 
PORT: non-erythematous well healing wound from prior port site 
without discharge, 1.5x1cm sized, Edges with pink healthy 
tissue, base with fibrinous tissue. no tenderness
PSYCH: linear thought process, affect appropriate

 
Pertinent Results:
ADMISSION LABS
___ 05:54PM   LACTATE-0.9
___ 05:45PM   GLUCOSE-179* UREA N-8 CREAT-0.5 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-25 ANION GAP-12
___ 05:45PM   WBC-1.8* RBC-3.07* HGB-8.9* HCT-28.2* MCV-92 
MCH-29.1 MCHC-31.7 RDW-16.6*
___ 05:45PM   NEUTS-80.6* LYMPHS-16.0* MONOS-0.8* EOS-1.4 
BASOS-1.2
___ 05:45PM   PLT COUNT-271

CBC ON ___
WBC 10.9 RBC 3.31 HB 9.5 HCT 30.1 PLT 442
NEUTRO 28 BANDS 0 LYMPHOS ___ MONO 6 EO 0 BASO 2 
NA 140 K 4.1 CL 104 HCO3 24 GLUCOSE 93 BUN 5 CR 0.7 
ALT 11 AST 21 LDH 598 ALK P 65 TOT BILI 0.2

IMAGING
CHEST X-RAY ON ___
IMPRESSION:  
Known anterior mediastinal mass is better appreciated on the 
previous PET-CT. Patchy opacities in both upper lobes and left 
lung base are nonspecific but may reflect areas of infection. 

CHEST X-RAY ON ___
IMPRESSION:  
No acute intrapulmonary process. Bronchovascular markings are 
accentuated by low lung volumes. 

 
Brief Hospital Course:
#PNEUMONIA
Ms. ___ was admitted with symptoms of dry cough and fever 
for one day in the setting of recent chemotherapy. On admission, 
a Chest X-Ray showed nonspecific patchy opacities in both upper 
lobes and left lung base that were thought to reflect possible 
areas of infection. She was started on Vancomycin 1000mg IV 
Q12HRS and Cefepime 2 g IV Q8H for possible pneumonia. A 
follow-up Chest X-Ray on ___ showed resolution of these 
areas, with no acute intrapulmonary process. Her ANC fell below 
500 on ___ and she continued to have a low-grade 
temperature to ___. Her urine Legionella Antigen and Strep 
Antigen tests were negative. Her blood cultures were negative X 
2, finalized on ___. Antibiotics were stopped on 
___ and she remained afebrile and was discharged home. 
This pneumonia was presumed to be of a viral origin given that 
the patient remained afebrile off antibiotics.

#T2DM
Ms. ___ has a history of T2DM that is managed with glyburide 
at home. While inpatient, her home glyburide was held and she 
was continued on Lantus 15 QHS and an insulin sliding scale. She 
had a single episode of hypoglycemia to 66 and her sliding scale 
was reduced. She had no further such episodes.

#HTN
Given her acute illness, Ms. ___ home antihypertensive 
medication regimen of Atenolol 25mg and Lisionpril 40mg were 
held. 

#GLAUCOMA
Given her history of Glaucoma, Ms. ___ home travoprost 
home eye drops were continued during this admission.

#ASTHMA:
Ms. ___ has a history of asthma, her home albuterol was 
continued during this admission.

___ HODGKIN'S LYMPHOMA
Ms. ___ has known ___ Hodgkin's Lymphoma and was s/p 
chemotherapy 1 week prior to this admission. Her ANC fell below 
500 on ___.  She received Neupogen 300mcg X 3 on 
___ and ___ with recovery of her 
counts on ___. 

Transitional Issues:
- Would Care Recs: Cleanse wound with wound cleanser set to 
"stream"  then pat dry. Apply normlgel wound gel to wound bed 
with sterile cotton tip applicator. Then place Mepilex border 4 
x 4 dressing over change every 3 days.
- Please follow-up repeat LDH on ___ Labs
- Ms. ___ antihypertensive medications (Atenolol and 
Lisinopril) were held during this admission due to concern for 
infection, please restart in the outpatient setting once 
appropriate

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
2. Fluticasone Propionate 110mcg 4 PUFF IH BID 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
7. Simvastatin 20 mg PO DAILY 
8. travoprost 0.004 % ophthalmic qAM 
9. Atenolol 25 mg PO DAILY 
10. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
per sliding scale 
11. Lantus (insulin glargine) 15 units SUBCUTANEOUS DAILY 

 
Discharge Medications:
1. albuterol sulfate 90 mcg/actuation inhalation q4h wheezing 
2. Simvastatin 20 mg PO DAILY 
3. travoprost 0.004 % ophthalmic qAM 
4. Lorazepam 0.5 mg PO Q8H:PRN anxiety/sleep 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
6. Fluticasone Propionate 110mcg 4 PUFF IH BID 
7. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
8. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous per 
sliding scale 
9. Lantus (insulin glargine) 15 units SUBCUTANEOUS DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Pneumonia
Primary Diagnosis: Neutropenia
Secondary Diagnosis: Hodgkin's Lymphoma
Secondary Diagnosis: Diabetes Mellitus
Secondary Diagnosis: Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a privilege caring for you here at ___. You came into 
the hospital because of a pneumonia. You were treated with IV 
antibiotics for this infection. You will continue follow-up with 
your oncologist as an outpatient for further chemotherapy.

You also received a bone marrow stimulant to improve your cell 
counts following your recent chemotherapy. It is important that 
you keep all your appointments.

All the Best!

Your ___ Team
 
Followup Instructions:
___